* NGSPICE file created from 4t-ota.ext - technology: gf180mcuD

.subckt pfet_03v3_RFU83T a_181_n6# a_n125_n6# a_33_n12# a_n189_n104# w_n435_n225#
+ a_117_n104# a_n273_n12#
X0 a_181_n6# a_117_n104# a_33_n12# w_n435_n225# pfet_03v3 ad=0.1596p pd=1.64u as=0.1596p ps=1.64u w=0.3u l=0.28u
X1 a_n125_n6# a_n189_n104# a_n273_n12# w_n435_n225# pfet_03v3 ad=0.1596p pd=1.64u as=0.1596p ps=1.64u w=0.3u l=0.28u
.ends

.subckt nfet_03v3_AZGML9 VSS a_n52_n50# a_n276_70# a_n212_n50# a_n356_n36# a_n116_n142#
X0 a_n212_n50# a_n276_70# a_n52_n50# VSS nfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=0.28u
X1 a_n356_n36# a_n116_n142# a_n212_n50# VSS nfet_03v3 ad=0.2109p pd=1.88u as=0.13p ps=1.02u w=0.5u l=0.28u
X2 a_n52_n50# a_n116_n142# a_n212_n50# VSS nfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=0.28u
X3 a_n212_n50# a_n276_70# a_n356_n36# VSS nfet_03v3 ad=0.13p pd=1.02u as=0.2109p ps=1.88u w=0.5u l=0.28u
.ends

.subckt x4t-ota I_bias V_in_minus V_in_plus VDD Vout VSS
Xpfet_03v3_RFU83T_0 Vout VDD VDD m1_1452_359# VDD m1_1452_359# m1_1452_359# pfet_03v3_RFU83T
Xnfet_03v3_AZGML9_0 VSS Vout V_in_plus I_bias m1_1452_359# V_in_minus nfet_03v3_AZGML9
.ends

